US07589095B2
To a suspension of macroporous cyanoborohydride (102 mg, 2.35 mmol/g) in acetonitrile (0.5 mL), was added piperidine (19 μL), acetic acid (0.1 mL), and a solution of 4-(3-oxo-propyl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile (49 mg) in acetonitrile (0.5 mL). The mixture was heated in the microwave at 150° C. for 10 min, filtered in a fritted tube using a Vacmaster multi-filtration apparatus, and purified by preparative-HPLC. 4-(3-Piperidin-1-yl-propyl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile was isolated as a clear gum (12 mg).

reactant | cyanoborohydride | 102 mg | C(#N)[BH3-]
reactant | piperidine | 19 μL | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
reactant | 4-(3-oxo-propyl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile | 49 mg | O=CCCC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C15H10F3N3O
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | 4-(3-Piperidin-1-yl-propyl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile | N1(CCCCC1)CCCC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C20H21F3N4
